US07462600B2
Preparation 23: 4-(6-chloro-pyridazin-3-yl)-phenylamine
4-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenylamine (0.500 g, 2.28 mmol), 3,6-dichloropyridazine (0.340 g, 2.28 mmol), sodium carbonate (0.726 g, 6.85 mmol), and tetrakis(triphenylphosphine)palladium(0) (0.068 g, 0.059 mmol) were mixed in 1,2-dimethoxyethane (11 mL) and water (3.8 mL) under nitrogen. The reaction mixture was heated (110° C.) for 12 h, cooled to RT, diluted with brine, and extracted with EtOAc. The combined organic layers were dried (Na2SO4), filtered, and concentrated under vacuum to a crude solid which was dissolved in DCM and extracted into 1N HCl (aq). The DCM layer was discarded, and the aqueous layer was basified with 1N NaOH (aq) and re-extracted with EtOAc. The EtOAc layer was dried (Na2SO4), filtered, and concentrated under vacuum to give the title compound (0.395 g). MS (ESI+) for m/z 206 (M+H)+.

reactant | 4-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenylamine | 2.28 mmol, 0.500 g | CC1(OB(OC1(C)C)C1=CC=C(C=C1)N)C | C12H18BNO2
reactant | 3,6-dichloropyridazine | 2.28 mmol, 0.340 g | ClC=1N=NC(=CC1)Cl | C4H2Cl2N2
reactant | sodium carbonate | 6.85 mmol, 0.726 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | water | 3.8 mL | O | H2O
solvent | 1,2-dimethoxyethane | 11 mL | COCCOC | C4H10O2
solvent | brine | [Cl-].[Na+].O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.059 mmol, 0.068 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-(6-chloro-pyridazin-3-yl)-phenylamine | 0.395 g | ClC1=CC=C(N=N1)C1=CC=C(C=C1)N | C10H8ClN3
